* NGSPICE file created from LC_VCO.ext - technology: ihp-sg13g2

.subckt LC_VCO IBIAS OUTp OUTn VCTRL GND VDD
X0 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X1 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=65.73882p ps=0.66871m w=4u l=4u
X2 OUTn OUTp VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X3 OUTp OUTn VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X4 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=81.2192p ps=0.72584m w=4u l=4u
X5 VDD OUTn OUTp VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X6 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X7 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X8 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X9 OUTn OUTp a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X10 OUTp OUTn cap_cmim l=4.26u w=4.26u
X11 a_n16713_n15396# OUTn OUTp GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X12 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X13 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X14 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X15 OUTp OUTn cap_cmim l=4.26u w=4.26u
X16 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X17 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X18 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X19 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X20 VDD OUTp OUTn VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X21 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X22 VDD OUTp OUTn VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X23 OUTp OUTn cap_cmim l=4.26u w=4.26u
X24 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X25 OUTp OUTn VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X26 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X27 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X28 IBIAS IBIAS GND GND sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.15u
X29 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X30 a_n16713_n15396# OUTp OUTn GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X31 OUTn OUTp a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X32 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X33 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X34 OUTn OUTp a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X35 OUTp OUTn cap_cmim l=4.26u w=4.26u
X36 OUTp OUTn VDD VDD sg13_lv_pmos ad=2.89p pd=17.68u as=1.615p ps=8.88u w=8.5u l=0.5u
X37 OUTn OUTp VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X38 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X39 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X40 VDD OUTp OUTn VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X41 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X42 a_n16713_n15396# OUTn OUTp GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X43 OUTp OUTn cap_cmim l=4.26u w=4.26u
X44 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X45 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X46 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X47 a_n16713_n15396# OUTp OUTn GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X48 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X49 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X50 a_n16713_n15396# OUTp OUTn GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X51 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X52 OUTp OUTn cap_cmim l=4.26u w=4.26u
X53 OUTp OUTn cap_cmim l=4.26u w=4.26u
X54 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X55 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X56 a_n16713_n15396# OUTn OUTp GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X57 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X58 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X59 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X60 OUTn OUTp VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X61 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X62 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X63 OUTp OUTn a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.68p ps=4.68u w=2u l=0.5u
X64 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X65 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X66 VDD OUTn OUTp VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X67 OUTp OUTn cap_cmim l=4.26u w=4.26u
X68 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=1.36p pd=8.68u as=0 ps=0 w=4u l=4u
X69 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X70 VDD OUTp OUTn VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X71 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X72 OUTp OUTn VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=2.89p ps=17.68u w=8.5u l=0.5u
X73 a_n16713_n15396# OUTn OUTp GND sg13_lv_nmos ad=0.68p pd=4.68u as=0.38p ps=2.38u w=2u l=0.5u
X74 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X75 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X76 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X77 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X78 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.15u
X79 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X80 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X81 OUTp OUTn a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X82 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X83 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X84 OUTp OUTn VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X85 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.15u
X86 OUTp OUTn VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X87 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X88 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X89 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X90 OUTn OUTp VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=2.89p ps=17.68u w=8.5u l=0.5u
X91 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X92 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X93 OUTp OUTn a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X94 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X95 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X96 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X97 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=1.36p pd=8.68u as=0 ps=0 w=4u l=4u
X98 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X99 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X100 VDD OUTn OUTp VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X101 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X102 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X103 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X104 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X105 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X106 OUTn OUTp VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X107 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X108 a_n16713_n15396# OUTp OUTn GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X109 OUTp OUTn cap_cmim l=4.26u w=4.26u
X110 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X111 a_n16713_n15396# OUTp OUTn GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X112 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X113 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X114 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X115 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X116 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X117 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X118 OUTn OUTp VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X119 OUTn OUTp VDD VDD sg13_lv_pmos ad=2.89p pd=17.68u as=1.615p ps=8.88u w=8.5u l=0.5u
X120 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X121 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X122 OUTp OUTn a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X123 OUTp OUTn cap_cmim l=4.26u w=4.26u
X124 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X125 VDD OUTn OUTp VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X126 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X127 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X128 VDD OUTp OUTn VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X129 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X130 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X131 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X132 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X133 OUTp OUTn cap_cmim l=4.26u w=4.26u
X134 a_n16713_n15396# OUTp OUTn GND sg13_lv_nmos ad=0.68p pd=4.68u as=0.38p ps=2.38u w=2u l=0.5u
X135 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X136 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X137 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X138 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X139 OUTp OUTn VDD VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X140 VDD OUTp OUTn VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X141 OUTn OUTp a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.68p ps=4.68u w=2u l=0.5u
X142 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X143 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X144 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X145 OUTp OUTn a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X146 OUTp OUTn a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X147 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X148 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X149 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X150 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X151 OUTn OUTp a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X152 OUTn OUTp a_n16713_n15396# GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X153 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X154 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X155 VDD OUTn OUTp VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X156 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X157 VDD OUTn OUTp VDD sg13_lv_pmos ad=1.615p pd=8.88u as=1.615p ps=8.88u w=8.5u l=0.5u
X158 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X159 OUTp VCTRL OUTp VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X160 a_n16713_n15396# IBIAS GND GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X161 a_n16713_n15396# OUTn OUTp GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X162 OUTp OUTn cap_cmim l=4.26u w=4.26u
X163 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X164 a_n16713_n15396# OUTn OUTp GND sg13_lv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.5u
X165 OUTn VCTRL OUTn VDD sg13_lv_pmos ad=0.76p pd=4.38u as=0 ps=0 w=4u l=4u
X166 GND IBIAS a_n16713_n15396# GND sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.15u
X167 OUTp OUTn sub! rhigh l=0.79u w=1u
C0 IBIAS VCTRL 0.04337f
C1 VDD VCTRL 85.36279f
C2 OUTp VCTRL 6.77454f
C3 a_n16713_n15396# OUTn 1.67674f
C4 IBIAS VDD 0.0719f
C5 OUTn VCTRL 6.59504f
C6 IBIAS OUTp 0.06946f
C7 OUTp VDD 34.0966f
C8 a_n15960_n13084# OUTp 0.03239f
C9 OUTn IBIAS 0.03493f
C10 OUTn VDD 21.9491f
C11 a_n16713_n15396# IBIAS 0.89397f
C12 OUTn OUTp 23.2156f
C13 a_n15960_n13084# OUTn 0.03422f
C14 a_n16713_n15396# OUTp 2.51998f
R0 IBIAS.n2 IBIAS.n1 15.4153
R1 IBIAS.n2 IBIAS.n0 5.6
R2 IBIAS IBIAS.n2 0.486484
R3 OUTp.n2 OUTp.n1 31.5912
R4 OUTp.n2 OUTp.n0 31.173
R5 OUTp.n17 OUTp.n16 29.2319
R6 OUTp OUTp.n17 4.43558
R7 OUTp.n8 OUTp.n6 2.24885
R8 OUTp.n17 OUTp.n2 1.72693
R9 OUTp.n10 OUTp.n6 0.04754
R10 OUTp.n11 OUTp.n10 0.04754
R11 OUTp.n12 OUTp.n5 0.0296004
R12 OUTp.n13 OUTp.n11 0.0208864
R13 OUTp.n13 OUTp.n12 0.0202045
R14 OUTp.n6 OUTp.n3 0.0172861
R15 OUTp.n9 OUTp.n7 0.0153157
R16 OUTp.n5 OUTp.n4 0.0150387
R17 OUTp.n9 OUTp.n8 0.0143172
R18 OUTp.n16 OUTp.n15 0.0120043
R19 OUTp.n16 OUTp.n3 0.0102572
R20 OUTp.n15 OUTp.n5 0.010081
R21 OUTp.n14 OUTp.n13 0.00872857
R22 OUTp.n14 OUTp.n10 0.00761905
R23 OUTp.n15 OUTp.n14 0.00738095
R24 OUTp.n14 OUTp.n3 0.00277566
R25 OUTp.n10 OUTp.n9 0.00186848
R26 OUTn.n2 OUTn.n1 20.2347
R27 OUTn OUTn.n2 19.1138
R28 OUTn.n2 OUTn.n0 17.9245
R29 VCTRL VCTRL.n0 25.3311
C15 VCTRL GND 16.9221f
C16 IBIAS GND 13.1956f
C17 OUTn GND 34.6605f
C18 OUTp GND 32.3355f
C19 VDD GND 7.73303f
C20 a_n16713_n15396# GND 10.162f $ **FLOATING
C21 a_n15960_n13084# GND 0.13944f
.ends
